US04419516
3-Mercaptopyrido[2,1-c]-S-triazole
5 g of 2-pyridylhydrazine (prepared by heating 2-chloropyridine with 85% hydrazine hydrate at 125° C. for 24 hours) is added to 12 ml of carbon disulfied in 40 ml of chloroform. A precipitate is formed, and the mixture is refluxed on a steam bath for twenty hours, with the evolution of hydrogen sulfide. The crystalline material is isolated given 6.1 g (88% yield) of title compound which has a m.p. of 209°-210° C.

reactant | 2-pyridylhydrazine | 5 g | N1=C(C=CC=C1)NN | C5H7N3
reactant | hydrogen sulfide | S | H2S
reactant | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Mercaptopyrido[2,1-c]-S-triazole | 6.1 g, 88% yield | SC=1N2C(=NN1)C=CC=C2 | C6H5N3S
